US05328927
(a) 3-(3-Benzo[b]thienyl)-2-t-butyloxycarbonylaminopropionic acid
2-Amino-3-(3-benzo[b]thienyl)propionic acid (Int. J. Peptide Protein Res., (1987), 29, 118) (22.9 g) and sodium carbonate (27.6 g) were added to a mixture of water (350 ml) and 1,4-dioxane (150 ml). Di-t-butyldicarbonate (34.1 g) was added to the mixture and the reaction was stirred for 16 hours and washed with ether (500 ml). The reaction mixture was acidified to pH 3 with solid citric acid and extracted with ethyl acetate to yield the title compound (31.5 g).

reactant | 2-Amino-3-(3-benzo[b]thienyl)propionic acid | 22.9 g | NC(C(=O)O)CC=1C2=C(SC1)C=CC=C2 | C11H11NO2S
reactant | sodium carbonate | 27.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 350 ml | O | H2O
reactant | Di-t-butyldicarbonate | 34.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 3-(3-Benzo[b]thienyl)-2-t-butyloxycarbonylaminopropionic acid | 31.5 g | S1C2=C(C(=C1)CC(C(=O)O)NC(=O)OC(C)(C)C)C=CC=C2 | C16H19NO4S
